US07485752B2
Benzoic acid N′-[3-(2-cyclopentyloxy-5-fluoro-phenyl)-propionyl]-N′-isopropyl-hydrazide
A solution of 3-(2-cyclopentyloxy-5-fluoro-phenyl)-propionic acid (220 mg, 0.87 mmoles) and benzoic acid N′-isopropyl-hydrazide (130 mg, 0.73 mmoles) in DMF (5mL) was treated with diisopropylethylamine (0.32 mL, 1.81 mmoles), and PyBroP (507 mg, 1.09 mmoles) at room temperature for 48 h. The reaction mixture was partitioned between 1N HCl and ethyl acetate. The organic layer was washed successively with saturated aqueous sodium bicarbonate and brine, then dried over sodium sulfate, filtered and concentrated. The crude was absorbed on silica and purified on a silica gel column with a 20-40% ethyl acetate/hexanes gradient to afford the product as a solid (90 mg, 30%). LC-MS m/e 413.32 (M+H+)

reactant | 3-(2-cyclopentyloxy-5-fluoro-phenyl)-propionic acid | 0.87 mmoles, 220 mg | C1(CCCC1)OC1=C(C=C(C=C1)F)CCC(=O)O | C14H17FO3
reactant | benzoic acid N′-isopropyl-hydrazide | 0.73 mmoles, 130 mg | C(C)(C)NNC(C1=CC=CC=C1)=O | C10H14N2O
reactant | diisopropylethylamine | 1.81 mmoles, 0.32 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | PyBroP | 1.09 mmoles, 507 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
solvent | DMF | 5mL | CN(C)C=O | C3H7NO
product | Benzoic acid N′-[3-(2-cyclopentyloxy-5-fluoro-phenyl)-propionyl]-N′-isopropyl-hydrazide | 90 mg, 30% | C1(CCCC1)OC1=C(C=C(C=C1)F)CCC(=O)N(NC(C1=CC=CC=C1)=O)C(C)C | C24H29FN2O3
